US08735411B2
1-Benzhydryl-N-methylazetidin-3-amine
A solution of 1-benzhydryl-azetidin-3-ol (15 g, 62.7 mmol) in pyridine (60 mL) was cooled to 0° C., treated with mesyl chloride (6.3 mL, 81 mmol) and stirred at room temperature for 3 hours. The mixture was partitioned between ether (300 mL) and H2O (150 mL). The ether layer was washed with H2O, washed with brine, dried (MgSO4), filtered and concentrated to provide a greenish solid. The solid (23.3 g) was mixed with methyl amine (40% in H2O, 90 mL) in DMF (60 mL), heated at 85° C. for 48 hours, cooled to room temperature, and partitioned between H2O (200 mL) and EtOAc (400 mL). The aqueous was extracted with additional EtOAc. The combined organics were extracted twice with 2 N HCl (200 mL). The combined 2M HCl layers were basified with NaOH (50%) and extracted with diethyl ether. The ether layer was washed with brine, dried (MgSO4), filtered, concentrated under reduced pressure and purified on a silica gel column eluting with NH4OH/MeOH/CH2Cl2 (0.4/4/96) to provide the title compound. NMR (CDCl3): δ 2.26 (s, 3H), 2.83 (t, J=6 Hz, 2H), 3.33 (m, 1H), 3.46 (t, J=6 Hz, 2H), 7.15-7.20 (m, 2H), 7.24-7.29 (m, 4H), 7.36-7.4 (m, 4H). MS (DCI-NH3) m/z 254 (M+H)+.

reactant | 1-benzhydryl-azetidin-3-ol | 62.7 mmol, 15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | mesyl chloride | 81 mmol, 6.3 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | methyl amine | 90 mL | CN | CH5N
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-Benzhydryl-N-methylazetidin-3-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC | C17H20N2
